US05502054
A stirred solution of 250.0 grams (1.05 moles) of 4-trifluoromethylphenylmethyl bromide in 1000 mL of ethanol was heated to about 80° C., and a solution of 109.0 grams (1.67 moles) of potassium cyanide in about 275 mL of water was added. Upon completion of addition, the reaction mixture was stirred at 80° C. for about 1.75 hours. After this time the reaction mixture was cooled to ambient temperature and extracted with three portions of diethyl ether. The combined extracts were washed with two portions of water and one portion of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding about 197 grams of 4-trifluoromethylphenylacetonitrile.

reactant | 4-trifluoromethylphenylmethyl bromide | 1.05 moles, 250.0 grams | FC(C1=CC=C(C=C1)CBr)(F)F | C8H6BrF3
reactant | potassium cyanide | 1.67 moles, 109.0 grams | [C-]#N.[K+]
solvent | ethanol | 1000 mL | C(C)O | C2H6O
solvent | water | about 275 mL | O | H2O
product | 4-trifluoromethylphenylacetonitrile | about 197 grams | FC(C1=CC=C(C=C1)CC#N)(F)F | C9H6F3N
